US04474692
L-Alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate (4.1 g) is dissolved in 40 ml of ethanol, then 0.85 g of sodium acetate, 2 ml of acetic acid, 5 g of propyl 2-oxo-4-phenylbutyrate and 5 g of molecular sieve 3A are added, thereafter a suspension of 6 g of Raney nickel in 20 ml of ethanol is added, and catalytic reduction is carried out at ordinary temperature and ordinary pressure. When the hydrogen absorption has ceased, the supernatant is separated by decantation. The precipitate is washed two or three times with ethanol. The supernatant and the washings are combined, and the solvent is distilled off under reduced pressure. The residue is shaken with 100 ml of ethyl acetate and aqueous sodium hydrogen carbonate. Filtration with 10 g of diatomaceous earth, separation of the ethyl acetate layer of the filtrate, washing with water, drying and removal of solvent by distillation give N-(1-propoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester as a slightly yellow, viscous oil. To this are added 3 ml of acetic acid and 12 ml of 25% hydrobromic acid solution in acetic acid, and the mixture is shaken occasionally for 15 minutes so as to make the reaction proceed. On adding 150 ml of ethyl ether, crystalline precipitate forms, which is collected by filtration to give 3.4 g of N-(1-propoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine hydrobromide as colorless crystals. They are added to a mixture of 70 ml of water and 70 ml of ethyl acetate, and the mixture is stirred, neutralized with sodium hydrogen carbonate and then adjusted to pH 3-4 with 10% hydrochloric acid. The ethyl acetate layer is separated, dried over anhydrous magnesium sulfate, and made acidic with ethanolic hydrochloric acid. The solvent is distilled off, and 150 ml of ethyl ether is added to the residue. After allowing the mixture to stand for 10 minutes, the resulting crystalline precipitate is collected by filtration to give 1.7 g of N-(1-propoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine hydrochloride melting at 147°-150° C. with decomposition.

reactant | L-Alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate | 4.1 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)C)=O)=O
reactant | sodium acetate | 0.85 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | propyl 2-oxo-4-phenylbutyrate | 5 g | O=C(C(=O)OCCC)CCC1=CC=CC=C1 | C13H16O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Raney nickel | 6 g | [Ni] | Ni
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(1-propoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCCC)C)=O)=O | C31H42N2O5
